data/core_train_final.csv
"[H:1][C:2]1([CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1)[CH3:3].[Br:9]>>[H:1][Br:9].[CH3:3][C:2]1[CH2:4][CH2:5][CH2:6][CH2:7][CH2:8]1 9-1,9;1,2-1,9;1,2-2",Room Temperature,Propagation,abstraction
"[H:22][C:21]([H:23])[CH:20]=[CH:19][CH2:18][C:16]([H:17])([H:24])[CH:15]=[CH:14][CH2:13][S:12][C:2]([CH3:1])([CH3:25])[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH3:11].[H:30][C:29](=[CH:28][CH:27]=[CH2:26])[H:31]>>[H:30][C:29]([H:31])[CH:28]=[CH:27][CH2:26][C:21]([H:22])([H:23])[CH:20]=[CH:19][CH2:18][C:16]([H:17])([H:24])[CH:15]=[CH:14][CH2:13][S:12][C:2]([CH3:1])([CH3:25])[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH3:11] 21-21,26; 26,27-26,21; 26,27-27,28;28,29-27,28;28,29-29",Room Temperature,Propagation,addition
"[CH2:10]=[CH:11][CH:12]=[CH2:13].[CH2:9][CH:8]=[CH:7][CH2:6][CH2:5][CH:4]=[CH:3][CH2:2][OH:1]>>[CH2:10][CH:11]=[CH:12][CH2:13][CH2:9][CH:8]=[CH:7][CH2:6][CH2:5][CH:4]=[CH:3][CH2:2][OH:1] 9-13,9; 12,13-13,9; 12,13-11,12; 10,11-11,12;10,11-10",Room Temperature,Propagation,addition
"[H:20][C:21]12C(C(C1(Cl)Cl)Cl)C3=C(C=CC=C3)C4=C2C=CC=C4.C1=CC=C(C=C1)C(=O)[O:10]>>[H:20][O:10]C(=O)C1=CC=CC=C1.C1=CC2=C(C=C1)C3=C(C=CC=C3)[C:21]4C2C(C4(Cl)Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)[C:20](C)C.[Br:10][Br:11]>>CC(C)[C:20](C)(C)[Br:10].[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[H:20][CH:21](C)Cl.[Cl:10]>>[H:20][Cl:10].C[CH:21]Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:12][O:11].[CH3:1][C:2](=[CH2:10])[C:3](=[O:9])[O:4][O:5][N+:6](=[O:8])[O-:7]>>[H:12][O:11][CH2:10][C:2]([CH3:1])[C:3](=[O:9])[O:4][O:5][N+:6](=[O:8])[O-:7] 11-10,11; 10,2-2; 10,2-10,11",Room Temperature,Propagation,addition
"[H:4][C:2]([CH3:1])([C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1)[Cl:3].[Cl:11]>>[H:4][Cl:11].[CH3:1][C:2]([C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1)[Cl:3] 11-11,4;4,2-2;2,4-4,11",Room Temperature,Propagation,abstraction
"[CH2:3]1[CH:4]=[CH:5][CH:6]2[CH:8]([O:7]2)[CH:9][CH:2]1[O:1]>>[CH2:3]1[CH:4]=[CH:5][CH:6]2[CH:8]([O:7]2)[CH:9]3[CH:2]1[O:1]3 1-1,9; 9-1,9",Room Temperature,Termination,recombine
"[CH3:5][CH2:4][O:3][C:2](=[O:1])[C:6]1([CH:13]([C:11]([CH2:10][CH2:9][C:8]1=[O:19])[CH3:12])[CH2:14][CH2:15][CH2:16][CH:17]=[CH2:18])[CH3:7]>>[CH3:5][CH2:4][O:3][C:2](=[O:1])[C:6]1([CH:13]2[CH2:14][CH2:15][CH2:16][CH:17]([C:11]2([CH2:10][CH2:9][C:8]1=[O:19])[CH3:12])[CH2:18])[CH3:7] 11-11,17; 17,18-11,17; 17,18-18",Room Temperature,Propagation,addition
"[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][C:10]([CH3:11])([CH3:23])[S:12][CH2:13][CH:14]=[C:15]([CH3:22])[CH2:16][CH2:17][C:18](=[CH:20][CH2:21])[CH3:19].[CH3:24][C:25](=[CH2:28])[CH:26]=[CH2:27]>>[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][C:10]([CH3:11])([CH3:23])[S:12][CH2:13][CH:14]=[C:15]([CH3:22])[CH2:16][CH2:17][C:18](=[CH:20][CH2:21][CH2:28][C:25](=[CH:26][CH2:27])[CH3:24])[CH3:19] 21-28,21; 25,28-21,28; 25,28-25,26; 26,27-25,26; 26,27-27",Room Temperature,Propagation,addition
"CC(C[CH:10]([CH:20]([H:23])[CH:21]C(=O)C)C(=O)C)C1=CC=CC=C1.O=C1N(C(C)(C)C)CC(C)(C)N([O:30])C1(CC)CC>>CC(C[CH:10]([CH:20]=[CH:21]C(=O)C)C(=O)C)C1=CC=CC=C1.O=C1N(C(C)(C)C)CC(C)(C)N([O:30][H:23])C1(CC)CC 30-30,23;20,23-30,23;20,23-20,21;21-20,21",Room Temperature,Termination,abstraction
"[H:9][S:7](=[O:6])(=[O:10])[O-:8].[O-:1][S:2](=[O:3])(=[O:5])[O:4]>>[H:9][O:4][S:2](=[O:3])(=[O:5])[O-:1].[O-:8][S:7](=[O:6])=[O:10] 4-9,4; 9-9,4; 9,7-7",Room Temperature,Propagation,abstraction
"[CH2:20]=[CH:21]C#N.C([CH:10]C#N)S(=O)(=O)[O-]>>[CH2:20]([CH:21]C#N)[CH:10](CS(=O)(=O)[O-])C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[C:10](C(=O)O)O.C[C:20](C(=O)O)O>>C[C:10](C(=O)O)([C:20](C)(C(=O)O)O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)O[CH:21]=[CH2:20].CN(C)CCN(C)[CH2:10]>>CC(=O)O[CH:21][CH2:20][CH2:10]N(C)CCN(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1CC1C.[Cl:20][Cl:21].[He]>>[He].CC1CC1C.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:3][O:4].[C:1]=[O:2]>>[H:3][O:4][C:1]=[O:2] 4-1,4;1-1,4",Room Temperature,Termination,recombine
"C[C@H]1CC[C@@]2(C)[C@](CCCC2=C)([H])[C@@]1(CC([O:20][N:10]3[C:11](SBr)C=CC=C3)=O)C>>BrS[C:11]4=[N:10]C=CC=C4.C[C@H]5CC[C@@]6(C)[C@](CCCC6=C)([H])[C@@]5(CC([O:20])=O)C 10,20-20;10,20-10,11;11-10,11",Room Temperature,Propagation,retroaddition
"[H:20][CH:21](C)C(C)(C)C.[Br:10]>>[H:20][Br:10].C[CH:21]C(C)(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:9][CH:8]([CH3:10])[C:6]1([CH2:5][CH2:4][C:2]([CH:13]([CH:11]1[OH:12])[OH:14])([CH3:3])[O:1])[O:7]>>[CH3:9][CH:8]([CH3:10])[C:6](=[O:7])[CH2:5][CH2:4][C:2]([CH3:3])([CH:13]([CH:11][OH:12])[OH:14])[O:1] 7-7,6; 11,6-6,7; 11,6-11",Room Temperature,Propagation,retroaddition
